US06825200B1
(±)-1-Phenyl-2-methylpiperazine hydrochloride
(±)-tert-Butyl 3-methyl-4-phenylpiperazine-1-carboxylate (142 mg) was dissolved in 4N hydrogen chloride in ethyl acetate (5 ml). After stirring for 15 minutes, the solvent was removed under reduced pressure to give the title compound as a slightly yellow solid.

reactant | (±)-tert-Butyl 3-methyl-4-phenylpiperazine-1-carboxylate | 142 mg | CC1CN(CCN1C1=CC=CC=C1)C(=O)OC(C)(C)C | C16H24N2O2
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | (±)-1-Phenyl-2-methylpiperazine hydrochloride | Cl.C1(=CC=CC=C1)N1C(CNCC1)C | InChI=1S/C11H16N2.ClH/c1-10-9-12-7-8-13(10)11-5-3-2-4-6-11;/h2-6,10,12H,7-9H2,1H3;1H
